US07285569B2
About 50 ml ammonia were condensed into a three-neck-flask in an ethanol-dry ice bath and 100 mg (3.70 mmol) 2-benzyl-5-trifluoromethyl-2H-pyrazole-3-carboxylic acid were added. To the solution sodium was added in small portions until the blue color stayed for more then 5 minutes (about 260 mg, 11.3 mmol). The ammonia was evaporated overnight. Water was added and acidified with 2N HCl solution. The aqueous phase was extracted twice with ethyl acetate, the combined organic phases were dried over Na2SO4, the solvent was evaporated in vacuo to give 560 mg (3.11 mmol, 84%) 5-trifluoromethyl-2H-pyrazole-3-carboxylic acid as a yellow solid that was used without further purification. MS: M=179.0 (API−)

reactant | 2-benzyl-5-trifluoromethyl-2H-pyrazole-3-carboxylic acid | 3.70 mmol, 100 mg | C(C1=CC=CC=C1)N1N=C(C=C1C(=O)O)C(F)(F)F | C12H9F3N2O2
reactant | sodium | [Na] | Na
solvent | ammonia | 50 ml | N | H3N
product | 5-trifluoromethyl-2H-pyrazole-3-carboxylic acid | 3.11 mmol, 560 mg, 84% | FC(C=1C=C(NN1)C(=O)O)(F)F | C5H3F3N2O2
